US05869500
8-(4-Benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo [4,5-a]-quinolizine-10-carboxylic acid (2-methoxy-ethyl)-propyl-amide
From 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo[4,5-a]-quinolizine-10-carboxylic acid with SOCl2 and DMF in toluene and treatment with triethylamine and (2-methoxy-ethyl)-propyl-amine in dichloromethane.

reactant | 8-(4-benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo[4,5-a]-quinolizine-10-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)N=CN3C)=O | C25H19N3O4
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | (2-methoxy-ethyl)-propyl-amine | COCCNCCC | C6H15NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-(4-Benzyloxy-phenyl)-3-methyl-7-oxo-3,7-dihydro-imidazo [4,5-a]-quinolizine-10-carboxylic acid (2-methoxy-ethyl)-propyl-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)N=CN3C)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)CCC | C31H32N4O4
